US08049015B2
[5-(2-Ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester, dihydrochloride and hydrocinnamic acid were reacted as described in Example 8, Step 6 to provide [5-(2-{[N-ethyl-N-(3-phenyl-propionyl)-amino]-methyl}-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester.

reactant | [5-(2-Ethylaminomethyl-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester, dihydrochloride | Cl.Cl.C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CNCC)=O
reactant | hydrocinnamic acid | C(CCC1=CC=CC=C1)(=O)O | C9H10O2
product | [5-(2-{[N-ethyl-N-(3-phenyl-propionyl)-amino]-methyl}-4-trifluoromethyl-phenyl)-pyridin-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=NC=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(C(CCC1=CC=CC=C1)=O)CC)=O | C28H29F3N2O3
